US06372735B1
A 1 N aqueous sodium hydroxide solution (13 ml) was added to a solution of ethyl 1-(4-methoxybenzyl)-4-(4,5-dimethoxy-2-nitrobenzoyl)-1H-1,2,3-triazole-5-carboxylate (b-1) (3.04 g, 6.46 mmol), prepared in step (b), in tetrahydrofuran (40 ml). The mixture was stirred at room temperature for 3.5 hr. The reaction solution was diluted with ether, and water was added thereto. The aqueous layer was acidified with hydrochloric acid and extracted with ethyl acetate, followed by washing with water and saturated brine solution. The organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give 1-(4-methoxybenzyl)-4-(4,5-dimethoxy-2-nitrobenzoyl)-1H-1,2,3-triazole-5-carboxyic acid as light yellow oil (c-1′:LP) (2.55 g, 89%). The resultant 1-(4-methoxybenzyl)-4-(4,5-dimethoxy-2-nitrobenzoyl)-1H-1,2,3-triazole-5-carboxylic acid (c-1′:LP) (1.07 g, 2.42 mmol) was dissolved in a mixed solvent composed of ethanol (50 ml) and ethyl acetate (50 ml). 10% palladium-carbon (129 mg) was added thereto. The mixture was stirred in a hydrogen atmosphere at room temperature for 4 hr. Methylene chloride was added to the reaction solution to dissolve the precipitated crystal, followed by filtration through Celite. The filtrate was concentrated under reduced pressure to give 4-(2-amino-4,5-dimethoxybenzoyl)-1-(4-methoxybenzyl)-1H-1,2,3-triazole-5-carboxylic acid (c-1: LP) (1.06 g, 100%).

reactant | sodium hydroxide | 1 N, 13 ml | [OH-].[Na+]
reactant | ethyl 1-(4-methoxybenzyl)-4-(4,5-dimethoxy-2-nitrobenzoyl)-1H-1,2,3-triazole-5-carboxylate | 6.46 mmol, 3.04 g | COC1=CC=C(CN2N=NC(=C2C(=O)OCC)C(C2=C(C=C(C(=C2)OC)OC)[N+](=O)[O-])=O)C=C1 | C22H22N4O8
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 1-(4-methoxybenzyl)-4-(4,5-dimethoxy-2-nitrobenzoyl)-1H-1,2,3-triazole-5-carboxyic acid | COC1=CC=C(CN2N=NC(=C2C(=O)O)C(C2=C(C=C(C(=C2)OC)OC)[N+](=O)[O-])=O)C=C1 | C20H18N4O8
